US08377957B2
Phosphorus(III) oxychloride (7.9 g, 52 mmol) was added dropwise to a stirred solution of 4-chloro-1-(3-hydroxypropyl)-1H-imidazo[4,5-c]quinolin-2-ol (12 g, 43 mmol) in DMF (150 mL), and the reaction was stirred overnight at room temperature. An analysis by LC/MS indicated the presence of starting material, and additional phosphorus(III) oxychloride (7.9 g) was added. The reaction was stirred overnight at room temperature and then cooled to approximately 0° C. Water (300 mL) was slowly added, and a precipitate formed. The mixture was stirred for several minutes, and the precipitate was isolated by filtration, washed with water and diethyl ether, and dried in a vacuum oven to provide 8.2 g of 4-chloro-1-(3-chloropropyl)-1H-imidazo[4,5-c]quinolin-2-ol.

reactant | Phosphorus(III) oxychloride | 52 mmol, 7.9 g | O(Cl)Cl.[P+3]
reactant | 4-chloro-1-(3-hydroxypropyl)-1H-imidazo[4,5-c]quinolin-2-ol | 43 mmol, 12 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCCO)O | C13H12ClN3O2
reactant | phosphorus(III) oxychloride | 7.9 g | O(Cl)Cl.[P+3]
reactant | Water | 300 mL | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-chloro-1-(3-chloropropyl)-1H-imidazo[4,5-c]quinolin-2-ol | 8.2 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCl)O | C13H11Cl2N3O
